US07417062B2
Step 1: (1H-Indol-2ylmethyl)-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amine.
Experimental condition analogous to Example 5, from 1H-indole-2-carbaldehyde 0.14 g (2 mmol), 2-(1-methyl-pyrrolidin-2-yl)-ethylamine 0.3 g (2.4 mmol), and sodium triacethoxyborohydride 0.87 g (1.87 mmol), in 20 mL Dichloromethane. The compound was purified using silica gel chromatography elution, ethyl-acetate-methanol-amonium hydroxide: 9-1-0.1 to 8-2-0.2, yield to 0.3 g light brown oil.

reactant | 1H-indole-2-carbaldehyde | 2 mmol, 0.14 g | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | 2.4 mmol, 0.3 g | CN1C(CCC1)CCN | C7H16N2
reactant | sodium | [Na] | Na
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1H-Indol-2ylmethyl)-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amine | 0.3 g | N1C(=CC2=CC=CC=C12)CNCCC1N(CCC1)C | C16H23N3
